BJT PP

vcc vcc 0 15

.param Rb1 = 100k

rb1 vcc b {Rb1}
rb2 b   0 {150k - Rb1}

q1 c b e bc107

.model bc107 NPN(Is=40.72f  Bf=407 Vaf=21.03 Ikf=1 Ise=40.72f Ne=1.305 Ikr=3.726
 + Isc=594.8p Nc=2.033 Rc=1.393 Cje=12.5p Vje=.5391 Mje=.4869 Tf=441.1p Cjc=6p
 + Mjc=.3821 Tr=114n Xtb=1.5)

 rc c vcc 1.5k
 re e 0 750

.dc param Rb1 100k 150k 1

 .probe

 ; cursor on
 ; sea forw lev(2m)
 ; wynik: 126.09 [kOhm]

 ; Zapamiêtaæ:
 ; .param Rb1 = 100k  !niezerowe!
 ; rb1 wezel wezel {parametryczna wartosc}
 ; .dc param Rb1 START KONIEC KROK          <--- !!!